US06897034B2
Synthesis of β-Ala-Ile-Ala-Leu-OBn
In a round bottom flask (25 mL), Fmoc-β-Ala-Ile-Ala-Leu-OBn SEQ ID NO: 119 (0.7 g, 1.0 mmol) is dissolved in 5 mL of anhydrous DMF. Piperidine (1.2 mL, 12.1 mmol) is added to the solution and the mixture is stirred at room temperature for 25 minutes. The reaction is quenched with water (6 mL) and extracted with ethyl acetate (2×10 mL). The combined organic layer is further washed by water (2×5 mL), brine (5 mL) and dried over sodium sulfate. A white solid (0.8 g) is obtained after removal of solvent.

reactant | Piperidine | 12.1 mmol, 1.2 mL | N1CCCCC1 | C5H11N
reactant | Fmoc-β-Ala-Ile-Ala-Leu-OBn | N(CCC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C40H50N4O7
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | β-Ala-Ile-Ala-Leu-OBn | 0.8 g | NCCC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C25H40N4O5
